US07271263B2
In 10 ml of toluene were dissolved 1.61 g (8.2 m moles) of 1-(4,6-dimethoxypyrimidine-2-yl)-2-propanone and 1.08 g (10 m moles) of phenylhydrazine. Thereto was added 1.36 g (10 m moles) of zinc chloride, followed by refluxing for 1 hour. The reaction mixture was allowed to cool, and ethyl acetate and water were added to dissolve the whole reaction mixture. The oily layer was washed with water, separated and dried over Glauber's salt. The resulting oily layer was concentrated under reduced pressure to obtain an orange solid. The solid was recrystallized from methanol to obtain 1.37 g (5.1 m moles) of 3-(4,6-dimethoxypyrimidine-2-yl)-2-methylindole. Yield: 62% Melting point: 182 to 184° C.

reactant | 1-(4,6-dimethoxypyrimidine-2-yl)-2-propanone | 1.61 g | COC1=NC(=NC(=C1)OC)CC(C)=O | C9H12N2O3
reactant | phenylhydrazine | 1.08 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | zinc chloride | 1.36 g | [Cl-].[Zn+2].[Cl-]
product | 3-(4,6-dimethoxypyrimidine-2-yl)-2-methylindole | 1.37 g, Yield: 62% | COC1=NC(=NC(=C1)OC)C1=C(NC2=CC=CC=C12)C | C15H15N3O2
